US06159990
To a solution of 2-amino-1-cyclopropyl-2-(3,4-difluoro-phenyl)-ethanol (1.7 g, 8.1 mmol) in CH2Cl2 (50 mL) at 0° C. was added a solution of di-tert-butyl dicarbonate (3.5 g, 16.2 mmol) in one portion and the resulting solution was stirred for 2 h at room temperature. The solvent was removed in vacuo and the residue was subjected to column chromatography on silica gel (4:1 cyclohexane/EtOAc) to obtain [2-cyclopropyl-1-(3,4-difluorophenyl)-2-hydroxy-ethyl]-carbamic acid-tert-butyl ester as a viscous oil (1.7 g, 68% yield).

reactant | 2-amino-1-cyclopropyl-2-(3,4-difluoro-phenyl)-ethanol | 8.1 mmol, 1.7 g | NC(C(O)C1CC1)C1=CC(=C(C=C1)F)F | C11H13F2NO
reactant | di-tert-butyl dicarbonate | 16.2 mmol, 3.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | [2-cyclopropyl-1-(3,4-difluorophenyl)-2-hydroxy-ethyl]-carbamic acid-tert-butyl ester | 1.7 g, 68% yield | C(C)(C)(C)OC(NC(C(O)C1CC1)C1=CC(=C(C=C1)F)F)=O | C16H21F2NO3
